US05217969
2,3-Dihydro-4H-pyrido[3,2-b][1,4]oxazin-3-one (U.S. Pat. No. 3,854,926; 1.5 g) was added portionwise to a stirred suspension of sodium hydride (60% w/w dispersion in mineral oil; 0.4 g) in DMF (30 ml) which had been cooled in an ice-bath. The mixture was allowed to warm to ambient temperature and was stirred for 30 minutes. Methyl iodide (0.65 ml) was added and the mixture was stirred at ambient temperature for 16 hours. The mixture was poured into a saturated aqeuous ammonium chloride solution and extracted with ethyl acetate. The organic phase was washed with water and with brine, dried (MgSO4) and evaporated to give 4-methyl-2,3-dihydro-4H-pyrido[3,2-b][1,4]oxazin-3-one (1.58 g) which was used without further purification.

reactant | 2,3-Dihydro-4H-pyrido[3,2-b][1,4]oxazin-3-one | O1C2=C(NC(C1)=O)N=CC=C2 | C7H6N2O2
reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | Methyl iodide | 0.65 ml | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 4-methyl-2,3-dihydro-4H-pyrido[3,2-b][1,4]oxazin-3-one | 1.58 g | CN1C2=C(OCC1=O)C=CC=N2 | C8H8N2O2
